US04477464
A mixture of 1.05 g of 3-chloro-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one and 1.0 of potassium phthalimide is warmed to 90° overnight. The reaction mixture is poured into 20 ml of water and stirring is continued for 1 hr. Isolation and drying affords 3-phthalimido-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one.

reactant | 3-chloro-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one | 1.05 g | ClC1CN(C2=C(NC1=O)C=CC=C2)C | C10H11ClN2O
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | water | 20 ml | O | H2O
product | 3-phthalimido-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one | C1(C=2C(C(N1C1CN(C3=C(NC1=O)C=CC=C3)C)=O)=CC=CC2)=O | C18H15N3O3
